US04272534
4-n-Butyl-2-hydroxymethylpyridine (28.9 g) is added dropwise, in the course of 12 minutes, to thionyl chloride (64 g) whilst allowing the temperature to rise gradually to 65° C. The reaction mixture is subsequently stirred for 4 hours under reflux and is then concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 75° C. The resulting residue (45 g) is cautiously taken up in distilled water (350 cc) and extraction is carried out twice with diethyl ether (250 cc in total). The aqueous solution is rendered alkaline with 2 N sodium hydroxide solution (135 cc) and extraction is carried out with diethyl ether (200 cc). The ether solution is dried over anhydrous sodium sulphate and filtered, a 3 N solution of hydrogen chloride in ethanol (100 cc) is added and the mixture is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 70° C. 4-n-Butyl-2-chloromethylpyridine hydrochloride (26.9 g), melting at 95° C., is thus obtained.

reactant | 4-n-Butyl-2-hydroxymethylpyridine | 28.9 g | C(CCC)C1=CC(=NC=C1)CO | C10H15NO
reactant | thionyl chloride | 64 g | S(=O)(Cl)Cl | Cl2OS
product | 4-n-Butyl-2-chloromethylpyridine hydrochloride | 26.9 g | Cl.C(CCC)C1=CC(=NC=C1)CCl | InChI=1S/C10H14ClN.ClH/c1-2-3-4-9-5-6-12-10(7-9)8-11;/h5-7H,2-4,8H2,1H3;1H
